US04207317
To the stirred suspension of 920 g of 1-(p-methoxyphenyl)-3-methyl-2-pyrazolin-5-one in 9,600 ml of toluene 460 g of triethylamine are added during 5 minutes, followed by 618 g of p-fluorophenylisocyanate. The mixture is stirred under nitrogen overnight at room temperature, cooled to 10° and combined with 5,000 ml of 1 N aqueous sodium hydroxide. The mixture is stirred for 15 minutes, the organic phase separated and extracted twice with 2,000 ml of 1 N aqueous sodium hydroxide again. The combined aqueous solutions are washed twice with 2,000 ml of diethyl ether each, cooled to 5° and acidified with 900 ml of concentrated hydrochloride acid during 30 minutes. The resulting suspension is stirred for 1 hour, filtered and the residue washed 6 times with 2,000 ml of water each. 1,364 g thereof are dissolved in 55,000 ml of boiling ethanol, the solution filtered hot and the filtrate stirred under nitrogen overnight at room temperature. The precipitate formed is filtered off, washed twice with 1,000 ml of cold ethanol each and recrystallized from ethanol again, to yield the 1-(p-methoxyphenyl)-3-methyl-4-(p-fluorophenylcarbamoyl)-2-pyrazolin-5-one melting at 255°-257° with decomposition; it is identical with that obtained according to Example 6.

reactant | 1-(p-methoxyphenyl)-3-methyl-2-pyrazolin-5-one | 920 g | COC1=CC=C(C=C1)N1N=C(CC1=O)C | C11H12N2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | p-fluorophenylisocyanate | 618 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | sodium hydroxide | 1 N, 5,000 ml | [OH-].[Na+]
solvent | toluene | 9,600 ml, 460 g | C1(=CC=CC=C1)C | C7H8
product | 1-(p-methoxyphenyl)-3-methyl-4-(p-fluorophenylcarbamoyl)-2-pyrazolin-5-one | COC1=CC=C(C=C1)N1N=C(C(C1=O)C(NC1=CC=C(C=C1)F)=O)C | C18H16FN3O3
